US07002037B2
h) Preparation of (2S)-3-[4-(benzyloxy)phenyl]-2-ethoxypropanoic acid
(2S)-3-[4-(benzyloxy)phenyl]-2-ethoxy-N-[(1R)-2-hydroxy-1-phenylethyl ]propanamide (4.3 kg, 10.2 mol) were dissolved in dioxane (30 L) and diluted with deionized water (35 L). To this opaque reaction mixture, H2SO4 (19.2 kg, 192 mol) was added. The reaction temperature was raised to 80° C. and kept at 80° C. for 15 hours. The reaction mixture was extracted twice with TBME (64 L, 70 L) at room temperature. The combined organic phases were extracted twice with 1 M NaOH (2×20 L, 2×20 mol). The aqueous phases were acidified with H2SO4 (24 L, 24 mol), extracted with TBME (40 L) and the organic phases dried with saturated NaCl solution. The solution was concentrated to yield 64 L concentrate which contained 2.9 kg, 100% (GLC 68% area (2S)-3-[4-(benzyloxy) phenyl]-2-ethoxypropanoic acid and 28% area (2S)-2-ethoxy-(4-hydroxyphenyl) propanoic acid).

reactant | (2S)-3-[4-(benzyloxy)phenyl]-2-ethoxy-N-[(1R)-2-hydroxy-1-phenylethyl ]propanamide | 10.2 mol, 4.3 kg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(=O)N[C@@H](CO)C1=CC=CC=C1)OCC | C26H29NO4
reactant | H2SO4 | 192 mol, 19.2 kg | OS(=O)(=O)O | H2O4S
reactant | NaOH | 20 mol, 1 M, 20 L | [OH-].[Na+]
reactant | H2SO4 | 24 mol, 24 L | OS(=O)(=O)O | H2O4S
solvent | dioxane | 30 L | O1CCOCC1 | C4H8O2
solvent | water | 35 L | O | H2O
product | (2S)-3-[4-(benzyloxy)phenyl]-2-ethoxypropanoic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(=O)O)OCC | C18H20O4
